US05929085
(a) 7-Nitro-1,2,3,4tetrahydroisoquinoline-1-acetic acid methyl ester hydrochloride
To a suspension of 7-nitro-1,2,3,4-tetrahydroisoquinoline-1-acetic acid (2.75 g, 11.5 mmol) in methanol (25 ml) at 0° C. was added dropwise thionyl chloride (3.6 ml, 41 mmol). After addition was complete, the reaction mixture was heated at reflux for 0.33 h. After cooling slightly, ether (50 ml) was added and the reaction mixture was cooled to 0° C. The precipitate was collected to give the title compound as a light yellow solid (3.09 g, 93%), m.p. 211-2° C.

reactant | 7-nitro-1,2,3,4-tetrahydroisoquinoline-1-acetic acid | 11.5 mmol, 2.75 g | [N+](=O)([O-])C1=CC=C2CCNC(C2=C1)CC(=O)O | C11H12N2O4
reactant | thionyl chloride | 41 mmol, 3.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | methanol | 25 ml | CO | CH4O
product | 7-Nitro-1,2,3,4tetrahydroisoquinoline-1-acetic acid methyl ester hydrochloride | 3.09 g, 93% | Cl.COC(CC1NCCC2=CC=C(C=C12)[N+](=O)[O-])=O | InChI=1S/C12H14N2O4.ClH/c1-18-12(15)7-11-10-6-9(14(16)17)3-2-8(10)4-5-13-11;/h2-3,6,11,13H,4-5,7H2,1H3;1H
